### PR TITLE
Dagaz ch2

### PR DESCRIPTION
**Pull request by tangyongsheng17-sudo**

### CODE REVIEW

File: pm/dagaz/ch2.v [hunk 1]
```diff
@@ -311,8 +311,12 @@ Theorem n2_26 (P Q : Prop) :
 Proof.
   assert (S1 : ¬ P ∨ ((¬ P ∨ Q) → Q)).
   { exact (n2_25 (¬ P) Q). }
+
+  set (λ P0 Q0 : Prop, eq_to_equiv (P0 → Q0) (¬ P0 ∨ Q0) (Impl1_01 P0 Q0))
+    as Impl1_01a.
+
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v]: cf. code in chapter 9, such assignment has to be wrapped up *explicitly* in a `TOOLS` section, and this section always has to be put at the beginning of a theorem's proof. Relocate all occurrences of these assignments and add the `TOOLS` comment correctly. `TOOLS` section is being made by writing comments of `(* TOOLS *)` and `(* ******** *)` which contains exactly 8 stars.
When it is put in the `TOOLS` section, don't leave extra line breaks around the assignment.

File: pm/dagaz/ch2.v [hunk 2]
```diff
@@ -363,18 +367,13 @@ Proof.
   { exact (Assoc1_5 R P Q). }
   assert (S3 : P ∨ (R ∨ Q) → P ∨ (Q ∨ R)).
   { exact (n2_3 P R Q). }
-  Syll_as S1 S2 H1.
-  now Syll_as H1 S3 H2.
+  Syll_as S1 S2 S3_1.
+  now Syll_as S3_1 S3 S3_2.
 Qed.
 
 Theorem Abb2_33 (P Q R : Prop) :
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v]: As this is a `Df` in the text, use the `Definition` vernac over `Theorem` for `Abb2_33`.

File: pm/dagaz/ch2.v [hunk 3]
```diff
@@ -589,260 +588,423 @@ Qed.
...
+  assert (S9 : (¬ P → ((P ∨ Q → P ∨ R) → (Q → R))) → ((P ∨ Q → P ∨ R) → (¬ P → (Q → R)))). 
+  { exact (Comm2_04 (¬ P) (P ∨ Q → P ∨ R) (Q → R)). }
+  Syll_as S8 S9 S10.
+  assert (S11 : ((P ∨ Q → R) → (Q → R)) → (¬ P → ((P ∨ Q → R) → (Q → R)))).
+  { exact (Simp2_02 (¬ P) ((P ∨ Q → R) → (Q → R))). }
+  assert (S12 : ¬ P → ((P ∨ Q → R) → (Q → R))).
+  { now MP S11 S3. }
+  assert (S13 : (P ∨ Q → P ∨ R) → (¬ P → (Q → R))).
+  { now MP S10 S12. }
+  assert (S14 : (¬ P → (Q → R)) → P ∨ (Q → R)).
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v]: The proof in the text only has 5 lines of proof, while this proof has made 14 `assert`s so far. When making an `assert`, the content much be exactly the same as that intermediate step of proof in the text. Restructure the proof so that it follows the text, and recheck other `Theorem`s to see their `assert`s also faithfully represent the proof.

**Review by tangyongsheng17-sudo — COMMENTED** [review]
fix some problems
